US06511978B1
6-1) Preparation of 1-[2-(thiophen-2-yl)ethyl]-5-hydroxymethyl-1H-imidazole
The title compound was prepared by modifying the method described in the literature (see: J. Med. Chem., 33, 1312-1329, 1990) from dihydroxyacetone dimer and 2-(thiophen-2-yl)ethylamine. 1.37 g(10 mmol) of 2-(thiophen-2-yl)ethylamine, 1.08 g(6 mmol) of dihydroxyacetone dimer and 1.15 g(11 mmol) of potassium thiocyanide were added to 10 ml of isopropyl alcohol, 2 ml of acetic acid was added thereto, and the resulting mixture was stirred for 48 hours at room temperature. The reaction mixture was filtered and the resulting solid was washed twice with 5 ml of isopropyl alcohol and twice with 5 ml of water. The filtered solid was added to 20 ml of 10% aqueous nitric acid solution. To the reaction solution was added 10 mg of sodium nitrite at 0° C. and the mixture was reacted for 1 hour at room temperature. The aqueous solution was washed with 10 ml of ethyl acetate, basified and recrystallized to give 1.16 g(Yield 49%) of the title compound.

reactant | dihydroxyacetone dimer | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | 2-(thiophen-2-yl)ethylamine | S1C(=CC=C1)CCN | C6H9NS
reactant | 2-(thiophen-2-yl)ethylamine | 10 mmol, 1.37 g | S1C(=CC=C1)CCN | C6H9NS
reactant | dihydroxyacetone dimer | 6 mmol, 1.08 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanide | 11 mmol, 1.15 g | S(C#N)C#N.[K]
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-[2-(thiophen-2-yl)ethyl]-5-hydroxymethyl-1H-imidazole | 1.16 g, Yield 49% | S1C(=CC=C1)CCN1C=NC=C1CO | C10H12N2OS
